US08865736B2
Butyl 4-[3-(aminocarbonyl)-2,4-difluorophenoxy]-2-butenoate
4-[3-(Aminocarbonyl)-2,4-difluorophenoxy]-2-butenoic acid, mixture of isomers (3:2) E:Z, (526 mg, 2 mmol, 1 equiv.) was dissolved in dry DMF (5 ml). K2CO3 (850 mg, 6 mmol, 3 equiv.) and n-butylbromide (0.23 ml, 2.1 mmol, 1.05 equiv.) were added and the reaction mixture was heated for 70 h at 50° C. and for 1.5 h at r.t. After cooling at r.t., the mixture was diluted with H2O (50 ml) and extracted with EtOAc (3×40 ml). The combined organic extracts were washed with H2O (6×30 ml), dried (MgSO4) and evaporated to dryness under reduced pressure. The oily residue was purified by column chromatography on silica, eluted with CH2Cl2 and MeOH/CH2Cl2 (1%), to give 364 mg, 57% yield, mp<40° C. HPLC-MS (method 1): m/z 314 [M+H]+, Rt=3.88 min. By 1H-NMR analysis it was determined to be a mixture of isomers in a ratio (5:7) E:Z. When the same reaction was performed on the acid (3:40) E:Z mixture of isomers, the product obtained was determined to be a mixture of isomers in a ratio (1:4) E:Z.

reactant | 4-[3-(Aminocarbonyl)-2,4-difluorophenoxy]-2-butenoic acid | NC(=O)C=1C(=C(OCC=CC(=O)O)C=CC1F)F | C11H9F2NO4
reactant | K2CO3 | 6 mmol, 850 mg, 3 equiv. | C(=O)([O-])[O-].[K+].[K+]
reactant | n-butylbromide | 2.1 mmol, 0.23 ml, 1.05 equiv. | C(CCC)Br | C4H9Br
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | H2O | 50 ml | O | H2O
product | Butyl 4-[3-(aminocarbonyl)-2,4-difluorophenoxy]-2-butenoate | 57% yield | NC(=O)C=1C(=C(OCC=CC(=O)OCCCC)C=CC1F)F | C15H17F2NO4
